US03953442
b. 5-chloro-3-(2-nitropropen-1-yl)indole
12.9 g of 5-chloro-3-formylindole and 1.3 g of ammonium acetate are suspended in 26 ml of nitroethane and refluxed for 1 hour. After the whole of the reactants have dissolved a mass of orange crystals are seen to form. The reaction mixture is then cooled and filtered after dilution with di-isopropyl ether. The product is recrystallised from 96% ethyl alcohol.

reactant | 5-chloro-3-formylindole | 12.9 g | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | ammonium acetate | 1.3 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 26 ml | [N+](=O)([O-])CC | C2H5NO2
product | 5-chloro-3-(2-nitropropen-1-yl)indole | ClC=1C=C2C(=CNC2=CC1)C=C(C)[N+](=O)[O-] | C11H9ClN2O2
